US08067457B2
To a solution of N-{2-oxo-2-[(3R)-pyrrolidin-3-ylamino]ethyl}-3-(trifluoromethyl)benzamide (100 mg, 0.32 mmol), 4-bromo-2-phenyltetrahydro-2H-pyran (92 mg, 0.38 mmol, prepared according to Org. Let. 2003, 1979-1982) in DMF (3 mL) was added cesium carbonate (156 mg, 0.48 mmol) and the mixture was heated to 60° C. overnight. The mixture was cooled to room temperature, and NaHCO3 (sat. aq., 10 mL) and dichloromethane (10 mL) were added. The organic layer was separated and the aqueous layer was washed with an addition portion of dichloromethane (10 mL). The organic layers were combined, dried over Na2SO4, filtered and concentrated. The resulting crude product was subjected to preparative HPLC to afford, as a mixture of diastereomers, N-(2-oxo-2-{[(3R)-1-(2-phenyltetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}ethyl)-3-(trifluoromethyl)benzamide as a white solid. 1H-NMR (CDCl3) δ: 1.42-1.71 (m, 2H), 1.93-1.99 (m, 2H), 2.15-2.20 (m, 2H), 2.15-2.20 (m, 1H), 2.59-2.72 (m, 1H), 3.53-3.61 (m, 2H), 3.87-3.99 (m, 2H), 4.09-4.19 (m, 3H), 4.29-4.32 (m, 2H), 7.28-7.33 (m, 5H), 7.55-7.58 (m, 1H), 7.73-7.75 (m, 1H), 8.00-8.03 (m, 1H), 8.08-8.11 (m, 1H). MS m/z: 476 (M+1).

reactant | N-{2-oxo-2-[(3R)-pyrrolidin-3-ylamino]ethyl}-3-(trifluoromethyl)benzamide | 0.32 mmol, 100 mg | O=C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)N[C@H]1CNCC1 | C14H16F3N3O2
reactant | 4-bromo-2-phenyltetrahydro-2H-pyran | 0.38 mmol, 92 mg | BrC1CC(OCC1)C1=CC=CC=C1 | C11H13BrO
reactant | cesium carbonate | 0.48 mmol, 156 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(2-oxo-2-{[(3R)-1-(2-phenyltetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}ethyl)-3-(trifluoromethyl)benzamide | O=C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)N[C@H]1CN(CC1)C1CC(OCC1)C1=CC=CC=C1 | C25H28F3N3O3
